US07238676B2
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate
The title compound was prepared from (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (Preparation 45) and 2,2-bis(3-methylphenyl)ethanamine (J. Med. Chem., 1988, 31(7), 1282) using a similar procedure to that of Preparation 64.

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
reactant | 2,2-bis(3-methylphenyl)ethanamine | CC=1C=C(C=CC1)C(CN)C1=CC(=CC=C1)C | C16H19N
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)C#N)COC(C)=O | C33H34N6O7
